US06001832
8-(4-Methyl-2-phenyl-1H-imidazol-1-yl)-1-phosphonomethyl-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one
Bromotrimethylsilane (1 ml, 7 mmol) was added dropwise to a stirred solution of 1-(ethoxy-hydroxy-phosphorylmethyl)-8-(4-methyl-2-phenyl-1H-imidazol-1-yl)-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one (500 mg, 0.94 mmol) in 20 ml of dry N,N-dimethylformamide.

reactant | Bromotrimethylsilane | 7 mmol, 1 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | 1-(ethoxy-hydroxy-phosphorylmethyl)-8-(4-methyl-2-phenyl-1H-imidazol-1-yl)-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | 0.94 mmol, 500 mg | C(C)OC(C1=NN=C2N1C1=CC(=C(C=C1NC2=O)C(F)(F)F)N2C(=NC(=C2)C)C2=CC=CC=C2)=P(=O)O | C23H18F3N6O4P
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 8-(4-Methyl-2-phenyl-1H-imidazol-1-yl)-1-phosphonomethyl-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxalin-4(5H)-one | CC=1N=C(N(C1)C1=C(C=C2NC(C=3N(C2=C1)C(=NN3)CP(=O)(O)O)=O)C(F)(F)F)C3=CC=CC=C3 | C21H16F3N6O4P
